US06924400B2
(i) 1-{5′-[3,4-Bis(hydroxymethyl)benzylamino]-2,2′-dimethylbiphenyl-4-yl}-1-propanone
800 mg (1.3 mmol) of 2-benzoyloxymethyl-5-[(6,2′-dimethyl-4′-propionylbiphenyl-3-ylamino)methyl]benzyl benzoate are dissolved in methanolic 2% potassium carbonate solution and the medium is stirred for 1 hour. After water/dichloromethane extraction, the residue obtained is purified by chromatography on silica gel (eluent: 30 heptane/70 ethyl acetate). A yellow oil is obtained (m=470 mg, Y=88%).

reactant | 2-benzoyloxymethyl-5-[(6,2′-dimethyl-4′-propionylbiphenyl-3-ylamino)methyl]benzyl benzoate | 1.3 mmol, 800 mg | C(C1=CC=CC=C1)(=O)OCC1=C(C=CC(=C1)CNC=1C=C(C(=CC1)C)C1=C(C=C(C=C1)C(CC)=O)C)COC(C1=CC=CC=C1)=O | C40H37NO5
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-{5′-[3,4-Bis(hydroxymethyl)benzylamino]-2,2′-dimethylbiphenyl-4-yl}-1-propanone | OCC=1C=C(CNC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)C)C)C=CC1CO | C26H29NO3
